US07304074B2
To a solution of 3-methyl-thiophen-2-ylmethylamine (700 mg, 5.5 mmol) (Maybridge) and rhodanine (732 mg, 5.5 mmol) in acetonitrile (30 mL) was added diisopropylethylamine (DIEA) (1.91 mL, 11 mmol) at room temperature. Then, this solution was cooled to 0° C. and mercuric chloride (1.52 g, 5.6 mmol) was added in one portion. After addition, the suspension was allowed to warm to room temperature and stirred for 3 days. The resulting black solids were filtered through a plug of celite and washed with acetonitrile (200 mL) and ethyl acetate (250 mL). The filtrates were removed under the vacuum and the crude residue was dissolved in dichloromethane (150 mL) and washed with water and brine solution. After drying over magnesium sulfate, the filtrate was removed under the vacuum and the residue was dissolved in dichloromethane (10 mL) and diluted with hexanes (10 mL). After overnight storage in the refrigerator, the solids were collected by filtration and washed with dichloromethane. After drying in air, 390 mg (31.5% yield) of 2-[(3-methyl-thiophen-2-ylmethyl)-amino]-thiazol-4-one was isolated as a light yellow amorphous solid: EL-HRMS m/e calcd for C9H10N2OS2 (M+) 226.0235. found 226.0232.

reactant | 3-methyl-thiophen-2-ylmethylamine | 5.5 mmol, 700 mg | CC1=C(SC=C1)CN | C6H9NS
reactant | rhodanine | 5.5 mmol, 732 mg | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | diisopropylethylamine | 11 mmol, 1.91 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 2-[(3-methyl-thiophen-2-ylmethyl)-amino]-thiazol-4-one | 390 mg, 31.5% yield | CC1=C(SC=C1)CNC=1SCC(N1)=O | C9H10N2OS2
